US06358960B1
Methyl 2′-benzyloxycarbonyl-4′-nitro-2-biphenylcarboxylate
To a solution of 2′-benzyloxycarbonyl-4′-nitro-2-biphenylcarboxylic acid (2.8 g) which was prepared by the same procedure as a series of reaction of Reference Example 4→Reference Example 5, using Benzyl 2-trifluoromethylsulfonyloxy-5-nitrobenzoate, in ether-ethyl acetate (1:1, 40 ml), diazomethane (30 ml) was added. Acetic acid was added to the reaction mixture, and the solution was concentrated. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=5:2) to give the title compound (2.57 g) having the following physical data.

reactant | 2′-benzyloxycarbonyl-4′-nitro-2-biphenylcarboxylic acid | 2.8 g | C(C1=CC=CC=C1)OC(=O)C1=C(C=CC(=C1)[N+](=O)[O-])C=1C(=CC=CC1)C(=O)O | C21H15NO6
reactant | Benzyl 2-trifluoromethylsulfonyloxy-5-nitrobenzoate | FC(S(=O)(=O)OC1=C(C(=O)OCC2=CC=CC=C2)C=C(C=C1)[N+](=O)[O-])(F)F | C15H10F3NO7S
reactant | diazomethane | 30 ml | [N+](=[N-])=C | CH2N2
solvent | Acetic acid | C(C)(=O)O | C2H4O2
product | Methyl 2′-benzyloxycarbonyl-4′-nitro-2-biphenylcarboxylate | 2.57 g | C(C1=CC=CC=C1)OC(=O)C1=C(C=CC(=C1)[N+](=O)[O-])C=1C(=CC=CC1)C(=O)OC | C22H17NO6
